US08809525B2
6-(3-Chloro-5-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine (36 mg, 9%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 3-chloro-5-methoxyphenylboronic acid (0.27 g, 1.43 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-chloro-5-methoxyphenylboronic acid | 1.43 mmol, 0.27 g | ClC=1C=C(C=C(C1)OC)B(O)O | C7H8BClO3
product | 6-(3-Chloro-5-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine | 36 mg, 9% | ClC=1C=C(C=C(C1)OC)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C16H13ClN4O
